US07563805B2
(3S,4S)-3-Ethoxycarbonyl-4-fluoromethyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone
To a solution of (4S)-4-fluoromethyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone (7.59 g, 34.3 mmol) and ethyl chloroformate (3.92 mL, 41.2 mmol) in tetrahydrofuran (150 mL), lithium bistrimethylsilyl amide (75.5 mL, 75.5 mmol, 1.0M solution in tetrahydrofuran) was added at 0° C., and the mixture was stirred the same temperature for 20 minutes. Saturated aqueous solution of ammonium chloride (200 mL) was added to the reaction mixture at the same temperature, and the mixture was extracted with ethyl acetate (200 mL×2). The organic layer was washed with saturated aqueous solution of sodium chloride (100 mL), and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elusion by hexane:ethyl acetate, 5:1→2:3) to obtain 8.50 g (85%) of the title compound as a pale yellow oily substance.

reactant | (4S)-4-fluoromethyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone | 34.3 mmol, 7.59 g | FC[C@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C13H16FNO
reactant | ethyl chloroformate | 41.2 mmol, 3.92 mL | ClC(=O)OCC | C3H5ClO2
reactant | lithium bistrimethylsilyl amide | 75.5 mmol, 1.0M, 75.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (3S,4S)-3-Ethoxycarbonyl-4-fluoromethyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone | 8.50 g, 85% | C(C)OC(=O)[C@@H]1C(N(C[C@H]1CF)[C@H](C)C1=CC=CC=C1)=O | C16H20FNO3
